US04107435
The product from (A), (1 g.), was dissolved in water (20 ml.) and sodium carbonate (2 g.) and a solution of p-nitrophenyl chloroformate (3 g.) in acetone (10 ml.) were added with stirring at 0° C. The solution was kept at 3° C. for 16 hours, then acidified with 5N hydrochloric acid and washed several times with ethyl acetate. The aqueous solution was evaporated and the residue was extracted with ethanol and chromatographed on a column of silica eluting with a gradient of chloroform/ethanol to give 6-(S)-(1',2'-dihydroxyethyl)tetrahydro-1,3-oxazin-2-one (0.65 g., 55%).

reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-nitrophenyl chloroformate | 3 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | water | 20 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 6-(S)-(1',2'-dihydroxyethyl)tetrahydro-1,3-oxazin-2-one | 0.65 g, 55% | OC(CO)[C@@H]1CCNC(O1)=O | C6H11NO4
